### ISSUE TITLE
No directory 'Mathlib' or file 'Mathlib.olean' in the search path entries

### ISSUE THREAD

**Issue by idontgetoutmuch** [Maverobot/ob-lean4#1]
```
#+name: mfderivWithin_congr_of_eq_on_open
#+begin_src lean4
import Mathlib.Geometry.Manifold.MFDeriv.Defs
import Mathlib.Geometry.Manifold.Instances.Real
import Mathlib.Analysis.InnerProductSpace.PiL2
import Mathlib.Geometry.Manifold.AnalyticManifold
import Mathlib.Geometry.Manifold.ContMDiff.Atlas
import Mathlib.Geometry.Manifold.MFDeriv.SpecificFunctions

open Manifold

open SmoothManifoldWithCorners

theorem mfderivWithin_congr_of_eq_on_open
  {m n : ℕ} {M N : Type*}
  [TopologicalSpace M]
  [ChartedSpace (EuclideanSpace ℝ (Fin m)) M]
  [SmoothManifoldWithCorners (𝓡 m) M]
  [TopologicalSpace N]
  [ChartedSpace (EuclideanSpace ℝ (Fin n)) N]
  [SmoothManifoldWithCorners (𝓡 n) N]
  (f g : M → N) (s : Set M)
  (ho : IsOpen s)
  (he : ∀ x ∈ s, f x = g x) :
  ∀ x ∈ s, mfderivWithin (𝓡 m) (𝓡 n) f s x = mfderivWithin (𝓡 m) (𝓡 n) g s x := by
    intros x hy
    exact mfderivWithin_congr (IsOpen.uniqueMDiffWithinAt ho hy) he (he x hy)
#+end_src

#+RESULTS: mfderivWithin_congr_of_eq_on_open
: /tmp/babel-gASSFJ/lydaB7J.lean:1:0: error: unknown module prefix 'Mathlib'
: 
: No directory 'Mathlib' or file 'Mathlib.olean' in the search path entries:
: /Users/dom/.elan/toolchains/leanprover--lean4---v4.14.0-rc2/lib/lean
```

**Comment by Maverobot** [comment]
Thank you for bringing this issue to my attention. It seems that using `lean <file-path>` for evaluating Org mode content is insufficient for your needs. If you are managing Mathlib dependencies with `lake`, I would appreciate your guidance, as I am not very familiar with `lake` myself.

To assist you better, could you please provide a minimal example and clear instructions on how to execute a Lean 4 script in the terminal? This will help me understand your requirements and work on supporting this feature effectively. Thank you for your cooperation!
